US07259266B2
Step 4. Preparation of 4-fluoro-2-hydroxy-3-methylbenzaldehyde
To 2.19 g (17.36 mmol) of 3-fluoro-2-methylphenol in 87 mL of anhydrous acetonitrile was added 12.1 g (126.73 mmol) of MgCI2 portionwise followed by addition of 9.0 mL (64.93 mmol) of TEA to afford a pinkish reaction mixture. To this mixture was added 3.8 g (126.73 mmol) of paraformaldehyde and the resulting yellow colored mixture was heated to relux for 4 hours. After cooling to room temperature, to the mixture was added 5% HCl slowly. The reaction was extracted with EtOAc (3×), washed with satd NaCl (3×), dried over MgSO4, filtered, and concd to afford an oil, which was purified by silica gel chromatography with EtOAc/hexane (1:9) to afford 2.02 g (75%) of a pale tan oil which later solidified: 1H NMR (CDCl3/400 MHz) 2.14 (d, 3H, J=1.6 Hz), 6.68 (t, 1 H, J=8.8 Hz), 7.37 (dd, 1H, J=6.4, 8.4 Hz), 9.78 (s, 1H), 11.59 (d, 1H, J=2.0 Hz); HRMS (EI+) m/z calcd for (C8H7FO2) 154.0430, found 154.0428.

reactant | 3-fluoro-2-methylphenol | 17.36 mmol, 2.19 g | FC=1C(=C(C=CC1)O)C | C7H7FO
reactant | paraformaldehyde | 126.73 mmol, 3.8 g | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | acetonitrile | 87 mL | C(C)#N | C2H3N
product | 4-fluoro-2-hydroxy-3-methylbenzaldehyde | 2.02 g, 75% | FC1=C(C(=C(C=O)C=C1)O)C | C8H7FO2
